US06624159B2
8-Amino-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide [Z.1]
A mixture of ethyl 8-amino-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate (Preparation 2, 1.0 g) and 4-chlorobenzylamine (4 mL) is heated at 180° C. The solution is cooled and stirred with ether (6 mL) and water (6 mL). The resulting precipitate is removed by filtration, washed with water followed by ether and dried to afford 1.05 g of the title compound. Physical characteristics: 1H NMR (DMSO-d6) δ2.35, 3.45, 3.57, 4.54, 5.65, 7.02, 7.39, 8.62, 10.6, 11.1.

reactant | ethyl 8-amino-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | 1.0 g | NC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)CN1CCOCC1 | C17H21N3O4
reactant | 4-chlorobenzylamine | 4 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | ether | 6 mL | CCOCC | C4H10O
solvent | water | 6 mL | O | H2O
product | 8-Amino-N-(4-chlorobenzyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 1.05 g | NC=1C=C(C=C2C(=C(C=NC12)C(=O)NCC1=CC=C(C=C1)Cl)O)CN1CCOCC1 | C22H23ClN4O3
